US09334278B2
To a solution of N-tert-butyl-2-(6-methylpyridin-3-ylamino)-5-((2-(trimethylsilyl)ethoxy)methyl)-5H-pyrrolo[2,3-b]pyrazine-7-carboxamide (55 mg, 121 mol) in dichloromethane (1.9 mL) was added trifluoroacetic acid (276 mg, 186 μL, 2.42 mmol) and the mixture stirred at room temperature for 16 h. The reaction mixture was concentrated in vacuo and the residue obtained then dissolved in dichloromethane (2 mL), methanol (1 mL) and ammonium hydroxide (0.25 mL) and the mixture stirred at room temperature for 1 h. The mixture was concentrated and triturated with water, then filtered to obtain a solid which was washed with ether and dried to give N-tert-butyl-2-(6-methylpyridin-3-ylamino)-5H-pyrrolo[2,3-b]pyrazine-7-carboxamide (33 mg, 102 mol, 84%) as a brown solid. 1H NMR (400 MHz, DMSO-d) δ ppm: 12.23 (s, 1H), 9.41 (s, 1H), 8.60 (d, J=2.3, 1 H), 7.91 (m, 3H), 7.59 (s, 1H), 7.06 (d, J=8.5, 1 H), 2.31 (s, 3H), 1.32 (s, 9H); MS (EI/CI) m/z: 325.1 [M+H].

reactant | N-tert-butyl-2-(6-methylpyridin-3-ylamino)-5-((2-(trimethylsilyl)ethoxy)methyl)-5H-pyrrolo[2,3-b]pyrazine-7-carboxamide | 121 mol, 55 mg | C(C)(C)(C)NC(=O)C1=CN(C2=NC=C(N=C21)NC=2C=NC(=CC2)C)COCC[Si](C)(C)C | C23H34N6O2Si
reactant | trifluoroacetic acid | 2.42 mmol, 186 μL, 276 mg | FC(C(=O)O)(F)F | C2HF3O2
reactant | methanol | 1 mL | CO | CH4O
reactant | ammonium hydroxide | 0.25 mL | [OH-].[NH4+]
solvent | dichloromethane | 1.9 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
product | N-tert-butyl-2-(6-methylpyridin-3-ylamino)-5H-pyrrolo[2,3-b]pyrazine-7-carboxamide | 102 mol, 33 mg, 84% | C(C)(C)(C)NC(=O)C1=CNC2=NC=C(N=C21)NC=2C=NC(=CC2)C | C17H20N6O
